US05681543
a) Sebacic acid mono-(N'-t-butoxycarbonyl-hydrazide)-monomethyl ester
10.81 g (50 mmol) of sebacic acid monomethyl ester is dissolved in tetrahydrofuran and successively mixed with 8.32 ml (60 mmol) of triethylamine and 5.28 ml (55 mmol) of chloroformic acid ethyl ester [ethyl chloroformate] at -5° C. After 15 minutes 6.61 g (50 mmol) of tert-butylcarbazate in tetrahydrofuran is instilled at this temperature and then stirred at room temperature for 2 hours. The precipitate is suctioned off, the filtrate is concentrated by evaporation and taken up in ethyl acetate. The organic phase is successively washed with NaHCO3 solution, citric acid and water and dried on Na2SO4. The oil obtained after concentration by evaporation of the ethyl acetate is chromatographed on silica gel in diisopropyl ether.

reactant | sebacic acid monomethyl ester | 50 mmol, 10.81 g | COC(CCCCCCCCC(=O)O)=O | C11H20O4
reactant | triethylamine | 60 mmol, 8.32 ml | C(C)N(CC)CC | C6H15N
reactant | tert-butylcarbazate | 50 mmol, 6.61 g | C(C)(C)(C)OC(NN)=O | C5H12N2O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | Sebacic acid mono-(N'-t-butoxycarbonyl-hydrazide)-monomethyl ester | COC(CCCCCCCCC(=O)NNC(=O)OC(C)(C)C)=O | C16H30N2O5
